US05212177
B. 2-(4-Methyl-1H-benzimidazol-1-yl)-benzonitrile
The title A compound (133 mg, 1.01 mmol), 2-fluorbenzonitrile (164 μL, 1.51 mmol) and finely ground potassium carbonate (279 mg, 2.02 mmol) were combined in 1 mL of N,N-dimethylformamide (DMF) and heated to 80° C. After stirring for 20 hours, the DMF was removed in vacuo and the brown solid residue was partitioned between saturated sodium bicarbonate and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined organic extracts were dried over magnesium sulfate, filtered and the solvent removed. The residue was purified by flash chromatography (20 g silica gel, eluted with 50% ethyl acetate, hexane) to provide 160 mg (68%) of a white solid.

reactant | 2-fluorbenzonitrile | 1.51 mmol, 164 μL | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | potassium carbonate | 2.02 mmol, 279 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(4-Methyl-1H-benzimidazol-1-yl)-benzonitrile | 160 mg, 68% | CC1=CC=CC=2N(C=NC21)C2=C(C#N)C=CC=C2 | C15H11N3
